US04260633
To 1.99 g (4.7 mmol) of (R)-α-cyano-3-phenoxybenzyl (R)-N-1-(1-naphthyl)ethylcarbamate in 20 ml of benzene is added 725 μl (525 mg, 5.2 mmol) of triethylamine. The solution, under nitrogen, is stirred while 505 μl (675 mg, 5.0 mmol) of trichlorosilane is added. The reaction is warmed to 50° for 2.5 hours, and is then poured into saturated ammonium chloride and ether. The organic fraction is washed again with saturated ammonium chloride and then with brine (3×), and is dried over sodium sulfate overnight in the freezer. Solvent is removed by rotoevaporation, and the residue is washed repeatedly with hexane to remove the isocyanate. The urea contamination is removed by dissolving the product in ether/hexane (~1:1), and the solvent is then removed. Purification by thin layer chromatography (tlc) on silica gel plates developed in 30% ethylacetate/hexane yields the product, which is then dissolved in trichloromethane. The solvent is removed, giving (R)-α-cyano-3-phenoxybenzyl alcohol, specific rotation [α]D =+15.2° (c=10 mg/ml in acetone).

reactant | (R)-α-cyano-3-phenoxybenzyl (R)-N-1-(1-naphthyl)ethylcarbamate | 4.7 mmol, 1.99 g | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC(O[C@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)=O | C27H22N2O3
reactant | triethylamine | 5.2 mmol, 725 μl, 525 mg | C(C)N(CC)CC | C6H15N
reactant | trichlorosilane | 5.0 mmol, 505 μl, 675 mg | Cl[SiH](Cl)Cl | Cl3HSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | (R)-α-cyano-3-phenoxybenzyl alcohol | C(#N)[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
